Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right foot ulcer/osteomyelitis
 
Major Surgical or Invasive Procedure:
___: Debridement/Excision of ulcer, bone biopsy cuboid and 
intermediate cuneiform
___: ___ line placed 

 
History of Present Illness:
___ with T2DM, morbid obesity, DVT/PE on coumadin here with 
charcot foot on right with significant ulceration, disruption of 
tarsal alignment, purulent drainage, and imaging concerning for 
osteomyelitis transferred here from ___ for further 
management. Xray of the right foot from OSH reportedly shows 
multiple fractures, subluxations that all appear pathologic.  
MRI of right foot also performed at OSH showed large plantar 
abscess that extends to cuboid with diffuse enhancement 
throughout tarsus and at base of metatarsals that could refelct 
osteomyelitis. Labs at OSH showed wbc 7.7, Hgb 11, plt 289, INR 
3.4, Mg 1.3, nl LFTs, albumin 3.2. Patient is unaware of trauma 
to the foot. States that she has had ___ edema that significantly 
worsened over the past month; was started on lasix 40mg po daily 
4 weeks ago, that was increased to 40mg bid after the first week 
of therapy failed to result in improvement. Denies h/o MI, 
dyspnea, cough, chest pain, orthopnea, PND.  Pain in right foot 
is well controlled. She does have peripheral neuropathy, so 
sensation in feet is limited at baseline. Denies fevers, chills. 
Has been holding home coumadin since ___.
Had TTE at OSH that showed EF 65% and severe AS.

 
Past Medical History:
h/o DVT/PE on warfarin  
severe aortic stenosis
HTN
hyperlipidemia
T2DM2
gastric bypass
bilat TKR 

 
Social History:
___
Family History:
Daughter alive and healthy. Father died of MI at ___. Mother 
lived to ___.

 
Physical Exam:
ADMISSION:
Vitals- 98.5   135/69   66   18   100% RA
General: Alert, pleasant, resting comfortably in bed.
HEENT:PERRL. MMM.
Neck:Supple. Unable to assess JVD due to body habitus
CV:Normal rate, regular rhythm with occasional irregular beats. 
Systolic murmur. Nl S1, S2. No rubs or gallops.
Lungs:CTAB
Abdomen:Soft, nontender, nondistended. Nl BS.
GU:no foley
Ext:wwp. 2+ pitting edema to knees bilaterally with brawny 
induration and lichenification of feet/shins.  Right foot warm, 
erythematous, edematous with ulcer on plantar aspect of 
mid-foot; no purulent drainage at present.
Neuro:CN ___ intact. Moving all extremities. Responds to 
questions appropriately
Skin:chronic venous stasis changes b/l ___. No rash or jaundice
.
DISCHARGE:
Vitals- Tm 98.9   96-126/38-67    52-62   18   95% RA
General: Alert, resting comfortably in bed.
HEENT:PERRL. MMM.
Neck:Supple. Unable to assess JVD due to body habitus
CV:Normal rate, regular rhythm. ___ systolic murmur heard 
throughout precordium, radiates to carotids. Nl S1, S2. No rubs 
or gallops.
Lungs:CTAB
Abdomen:Soft, nontender, nondistended. Nl BS.
GU:no foley
Ext:wwp. 2+ pitting edema to knees bilaterally with brawny 
induration and lichenification of feet/shins.  Right foot warm, 
erythematous, edematous with ulcer on plantar aspect of 
mid-foot.
Neuro:CN ___ intact. Moving all extremities. Responds to 
questions appropriately
Skin:chronic venous stasis changes b/l ___. No rash or jaundice

 
Pertinent Results:
ADMISSION LABS:
___ 10:28PM BLOOD WBC-9.3 RBC-4.10* Hgb-11.1* Hct-34.3* 
MCV-84 MCH-27.1 MCHC-32.4 RDW-15.4 Plt ___
___ 05:40AM BLOOD ___ PTT-33.0 ___
___ 10:28PM BLOOD Glucose-117* UreaN-20 Creat-0.7 Na-140 
K-3.7 Cl-101 HCO3-29 AnGap-14
.
OTHER PERTINENT LABS:
___ 05:20AM BLOOD ___ PTT-32.7 ___
___ 05:55AM BLOOD ___ PTT-32.5 ___
___ 05:20AM BLOOD ESR-92*
___ 05:06AM BLOOD CRP-32.7*
___ 05:06AM BLOOD ALT-34 AST-54* AlkPhos-95 TotBili-0.3
.
DISCHARGE LABS:
___ 05:55AM BLOOD WBC-6.0 RBC-4.23 Hgb-11.5* Hct-36.6 
MCV-87 MCH-27.2 MCHC-31.4 RDW-15.8* Plt ___
___ 05:55AM BLOOD ___ PTT-32.5 ___
___ 05:55AM BLOOD Glucose-147* UreaN-29* Creat-1.0 Na-141 
K-3.8 Cl-100 HCO3-32 AnGap-13
___ 09:42AM BLOOD ___ PTT-32.0 ___
___ 05:09AM BLOOD Vanco-19.5
.
MICRO:
___ 10:10 am TISSUE      RIGHT FOOT INTERMEDIATE CUNIFORM. 
GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
.
___ 10:00 am TISSUE      RIGHT FOOT CUBIOD. 
GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
.
IMAGING:
FOOT AP,LAT & OBL BILAT PORT Study Date of ___ 11:18 AM 
Right foot: There continues to be changes of Charcot 
arthropathy, most 
pronounced at the tarsal metatarsal joint and better assessed on 
the MRI from ___.  There is lisfranc dislocation at the 
tarsometatarsal joint with medial and lateral dislocation of the 
cuneiforms.  Soft tissue swelling is also noted. Calcaneal 
spurring is seen along with vascular calcifications. 
.  
Left foot: Degenerative changes are noted including at the 
tarsometatarsal joint and navicular cuneiform joint. Inferior 
calcaneal spurring is noted, and vascular calcifications are 
noted. Surgical amputation of the fifth phalanx and third distal 
phalanx are noted. There is medial subluxation of the fourth 
proximal phalanx. 
.
ULTRASOUND  BILAT LOWER EXT VEINS Study Date of ___ 3:43 
___ 
FINDINGS: There is normal compressibility, flow and augmentation 
of the bilateral common femoral, superficial femoral, and 
popliteal veins. Normal color flow and compressibility are 
demonstrated in the posterior tibial and peroneal veins. There 
is normal respiratory variation in the common femoral veins 
bilaterally. No evidence of medial popliteal fossa (___) cyst. 
 
IMPRESSION: No evidence of deep venous thrombosis in the 
bilateral lower extremity veins. 
.
CHEST PORT. LINE PLACEMENT Study Date of ___ 8:42 AM 
IMPRESSION: 
Right subclavian PICC line has its tip in the proximal SVC.  
Overall 
cardiac and mediastinal contours are within normal limits.  
There is 
calcification in the aorta, consistent with atherosclerosis.  
The right 
hemidiaphragm is elevated, which is of uncertain significance.  
Lungs are 
without evidence of focal airspace consolidation, large 
effusions, 
pneumothorax, or pulmonary edema.  Marked degenerative changes 
are seen 
involving both glenohumeral joints as well as a moderate 
degenerative changes in the thoracic spine.  No acute bony 
abnormality.  Multiple scattered tiny radiopaque nodular 
opacities suggestive of calcification.  These findings would 
favor prior granulomatous infection.  Comparison to prior chest 
radiographs would be helpful.  In their absence, clinical 
correlation would be advised and followup imaging in three to 
six months with a plain film should be considered. 
  

  

 
Brief Hospital Course:
___ with T2DM, morbid obesity, DVT/PE on coumadin here with 
charcot foot on right with significant ulceration, disruption of 
tarsal alignment, purulent drainage, and imaging concerning for 
osteomyelitis.
.
# Osteomyelitis of right foot: Per OSH MRI, patient has 
osteomyelitis of right cuboid bone as well as diffuse 
enhancement throughout tarsus and at base of metatarsals that 
could refelct osteomyelitis.  Predisposing factors include T2DM 
complicated by peripheral neuropathy and Charcot joint.  No 
known trauma to the foot; pt was unaware of ulcer until it began 
bleeding. She was started on vancomycin and zosyn at OSH with 
deep wound cultures pending. Her history of DM is concerning for 
polymicrobial osteomyelitis, including pseudomonas. She is s/p 
bone biopsy by podiatry on ___ with tissue showing negative 
gram stain and cultures with no growth to date; however, this 
could be due to antibiotic therapy initiated at OSH prior to 
bone biopsy.  She was empirically started on vancomycin and 
zosyn on ___, then transitioned to vancomycin, cefepime and 
flagyl with plan for a 6 week course (day 1 = ___.  She will 
follow up with podiatry and infectious disease for further 
management of osteomyelitis.  She should have a weekly CBC with 
diff, ESR, CRP, CHEM-7, LFTs and vanc trough. Labs should next 
be drawn on ___ with results faxed to the ___ Infectious 
Disease clinic at ___.
.
# Right foot Charcot joint:  Evaluated by podiatry who 
recommended reconstruction vs amputation.  Tentatively planning 
for reconstruction in ~2 months.  She should follow up with 
podiatry for further management.
.
# Incidental finding on CXR: Multiple scattered tiny radiopaque 
nodular opacities suggestive of calcification.  These findings 
would favor prior granulomatous infection.  Comparison to prior 
chest radiographs would be helpful.  In their absence, clinical 
correlation would be advised and followup imaging in three to 
six months with a plain film should be considered. 
.
# DM2: Complicated by peripheral neuropathy. On metformin at 
home. Last HbA1c unknown.  Held home metformin while in house 
and initiated an insulin sliding scale. She can resume metformin 
at rehab. 
.
# Lower extremity edema and stasis dermatitis: Secondar to 
chronic venous insufficiency. She had tenderness to palpation of 
bilateral calves noted on ___ bilateral ___ ultrasound 
negative for DVT. Continued home lasix.
.
# h/o DVT/PE: She is on coumadin for history of DVT/PE that 
occurred post-operatively during time when she was relatively 
immobile.  She does not have a hard indication to continue 
coumadin therapy; however, after discussion with the patient and 
her PCP, the decision was made to continue coumadin for now 
given her relative immobility and her fear of having another PE. 
Once she is more mobile, consideration should be given to 
discontinuing coumadin therapy, especially in light of the 
associated bleeding risks. Her coumadin was held for bone biopsy 
and restarted ___. She should have an INR checked on ___ 
___ and then q2-3 days until stable. INR 1.3 on ___.
.
# HTN: Stable. Continued home atenolol, lisinopril.
.
# HLD: Stable. Continued home pravastatin.
.
## Transitional issues:
## Transitional issues:
- she should continue a 6 wk course of antibiotics (day 1 = 
___
- please check weekly CBC with diff, ESR, CRP, CHEM-7, LFTs and 
vanc trough. Labs should next be drawn on ___ with results 
faxed to the ___ Infectious Disease clinic at ___.
- she is on coumadin for history of DVT/PE. She does not have a 
hard indication to continue coumadin therapy; however, after 
discussion with the patient and her PCP, the decision was made 
to continue coumadin for now given her relative immobility. Once 
she is more mobile, consideration can be given to discontinuing 
coumadin therapy, especially given the associated bleeding 
risks. Her coumadin was held for bone biopsy and restarted 
___. She should have an INR checked on ___ and 
then q2-3 days until stable. Heparin SC should be discontinued 
once her INR is > or equal to 2.
- Incidental finding on CXR: Multiple scattered tiny radiopaque 
nodular opacities suggestive of calcification. These findings 
would favor prior granulomatous infection. Comparison to prior 
chest radiographs would be helpful. In their absence, clinical 
correlation would be advised and followup imaging in three to 
six months with a plain film should be considered. 
- she should follow up with podiatry for continued management of 
right foot osteomyelitis and right foot Charcot joint. 
Reconstruction for Charcot joint is tentatively planned to occur 
~ 2 months from now.
- Code: Full
- Emergency ___ (daughter and HCP): 
___ (h), ___ (c)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 40 mg PO BID 
2. Lisinopril 5 mg PO DAILY 
3. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 
4. Famotidine 10 mg PO BID 
5. Cyanocobalamin 250 mcg PO DAILY 
6. MetFORMIN (Glucophage) 500 mg PO BID 
7. Warfarin 10 mg PO DAILY16 
8. Atenolol 50 mg PO DAILY 
9. Pravastatin 20 mg PO DAILY 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Cyanocobalamin 250 mcg PO DAILY 
3. Famotidine 10 mg PO BID 
4. Furosemide 40 mg PO BID 
5. Lisinopril 5 mg PO DAILY 
6. Pravastatin 20 mg PO DAILY 
7. Warfarin 10 mg PO DAILY16 
8. Acetaminophen 1000 mg PO Q8H 
9. DiphenhydrAMINE 25 mg PO HS:PRN insomnia 
10. Docusate Sodium 100 mg PO BID 
11. Heparin 5000 UNIT SC TID 
Please discontinue this medication once INR is greater than or 
equal to 2. 
12. Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line 
flush 
13. Senna 8.6 mg PO BID 
14. Calcium Carbonate 1000 mg PO DAILY 
15. MetFORMIN (Glucophage) 500 mg PO BID 
16. CefePIME 2 g IV Q24H 
17. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
18. Sarna Lotion 1 Appl TP QID:PRN itch 
19. Vancomycin 1000 mg IV Q 12H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: osteomyelitis
Secondary: hypertension, hyperlipidemia, type 2 diabetes 
mellitus, chronic venous insuffiency, venous stasis dermatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___. You were admitted 
for osteomyelitis (a bone infection) of your right foot.  You 
were evaluated by podiatry who performed a bone biopsy.  Please 
follow up with them for further management of your foot 
problems.  Our infectious disease team also evaluated you and 
recommended a 6 week course of IV antibiotics. Please follow up 
with them for further management of your infection.
 
Followup Instructions:
___